US08871753B2
Step B: tert-Butyl (3-ethynylphenyl)carbamate
A solution of 3-ethynylaniline (20.2 g, 172 mmol) and di-tert-butyldicarbonate (41.4 g, 190 mmol) in ethanol (310 ml) was stirred at 25° C. overnight. Then the reaction solution was concentrated. The crude residue was purified by flash column chromatography to yield the desired product (37.5 g, 100%). LCMS calculated for C13H16NO2(M+H)+: m/z=218.1.

reactant | 3-ethynylaniline | 172 mmol, 20.2 g | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | di-tert-butyldicarbonate | 190 mmol, 41.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 310 ml | C(C)O | C2H6O
product | tert-Butyl (3-ethynylphenyl)carbamate | 37.5 g, 100% | C(#C)C=1C=C(C=CC1)NC(OC(C)(C)C)=O | C13H15NO2
